US06107291
To a solution of 1-(4-Methoxy-benzenesulfonyl)-azepane-2,3-dicarboxylic acid 2-tert-butyl ester (1.06 g, 2.56 mmoL) in 12.8 mL THF at 0° C. was added a Borane-THF solution (1M, 6.4 mL) dropwise. The reaction was warmed to ambient temperature after 30 minutes and allowed to stir for 20 hours before cooling to ice bath temperature and carefully quenching with a 1:1 solution of acetic acid and water. This solution was stirred for 1 hour after which the majority of the solvent was removed under reduced pressure. The residue was dissolved in ethyl acetate and washed with brine. This solution was dried over anhydrous magnesium sulfate and filtered. The solvent was removed under reduced pressure and purified by column chromatography (silica: 25% to 30% ethyl acetate in hexanes) to yield 3-Hydroxymethyl-1-(4-methoxy-benzenesulfonyl)-azepane-2-carboxylic acid tert-butyl ester as a clear oil; MS: (M+H)+ =400, (M+NH4)+ =417; and the cooresponding aldehyde (31 mg, 3%) as a clear oil; MS: (M+H)+ =398, (M+NH4)+ =415.

reactant | 1-(4-Methoxy-benzenesulfonyl)-azepane-2,3-dicarboxylic acid 2-tert-butyl ester | 1.06 g | C(C)(C)(C)OC(=O)C1N(CCCCC1C(=O)O)S(=O)(=O)C1=CC=C(C=C1)OC | C19H27NO7S
reactant | Borane THF | 1M, 6.4 mL | B.C1CCOC1
solvent | THF | 12.8 mL | C1CCOC1 | C4H8O
product | 3-Hydroxymethyl-1-(4-methoxy-benzenesulfonyl)-azepane-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C1N(CCCCC1CO)S(=O)(=O)C1=CC=C(C=C1)OC | C19H29NO6S
